US05324735
7-(3-Amino-1-pyrrolidinyl)-6,8-difluoro-1,4-dihydro-4-oxo-1-(prop-1-en-2-yl)-quinoline-3-carboxylic acid
159 mg (0.38 mmol) of ethyl 7-(3-amino-1-pyrrolidinyl)-1-(1-chloroprop-2-yl)-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate (Compound No.1) prepared in Example 1 was dissolved into 20 ml of ethanol. To this was added 65 mg (1.15 mmol) of pulverized potassium hydroxide and the mixture was heated under refluxing for 14 hours. 3 ml of water was added and the mixture was heated under refluxing for a further 3 hours. After cooling, the reaction mixture was concentrated under reduced pressure, the residue was washed with water, and dried to obtain a crude product. The crude product was purified by silica gel column chromatography (chloroform:methanol=5:1) to obtain 52 mg of light yellow crystals of 7-(3-amino-1-pyrrolidinyl)-6,8-difluoro-1,4-dihydro-4-oxo-1-(prop-1-en-2-yl)-quinoline-3-carboxylic acid (Compound No. 19).

reactant | ethyl 7-(3-amino-1-pyrrolidinyl)-1-(1-chloroprop-2-yl)-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 0.38 mmol, 159 mg | NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1F)C(CCl)C)C(=O)OCC)=O)F | C19H22ClF2N3O3
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | potassium hydroxide | 1.15 mmol, 65 mg | [OH-].[K+]
solvent | water | 3 ml | O | H2O
product | 7-(3-Amino-1-pyrrolidinyl)-6,8-difluoro-1,4-dihydro-4-oxo-1-(prop-1-en-2-yl)-quinoline-3-carboxylic acid | 52 mg | NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1F)C(=C)C)C(=O)O)=O)F | C17H17F2N3O3
